US07482366B2
Magnesium turnings (720 mg, 30 mmol) were suspended in THF (30 mL) in a 250 mL round bottom flask fitted with a thermometer. A solution of 1-bromohexane (3.2 mL, 23 mmol) in THF (10 mL) was prepared after first drying the 1-bromohexane by passing it through a pad of activated basic alumina. About 10% of the halide solution was added to the Mg suspension, followed by a small pellet of iodine. The addition of the iodine led to an increase in the reaction temperature indicating the initiation of the Grignard reagent formation. The remaining halide solution was added dropwise over ˜15 minutes. After the completion of the addition of the halide, the suspension was held at ˜55° C. to complete the formation of the Grignard reagent. While the Grignard reagent was forming, a suspension of dibenzyl oxalate (5.1 g, 19 mmol) was prepared in a mixture of ether (50 mL), and THF (15 mL). This suspension was cooled to <−70° C. (internal monitoring) and then treated with the Grignard solution prepared previously at a rate sufficient to keep the internal temperature below −70° C. After stirring for 3 hours at <−70° C., the reaction was quenched by the addition of saturated aqueous NH4Cl, followed by addition of 1 N HCl (25 mL). The cold solution was then allowed to come to ambient temperature. After ˜64 hours the reaction mixture was diluted with ether and the layers were separated. The acidic aqueous layer was extracted with ether (2×50 mL). The combined organic layers were washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to afford a pale brown oil. The crude material was purified by flash chromatography eluting with a gradient from 0% to 30% ethyl acetate/hexane to afford 2-oxo-octanoic acid benzyl ester (3.43 g, 73% yield) as a pale yellow oil. The material was not completely pure by NMR analysis. 1H-NMR (400 MHz, CDCl3): δ 7.42-7.33 (5H, m), 5.27 (2H, m), 2.82 (2H, t, J=7.3 Hz), 1.66-1.56 (2H, m), 1.35-1.23 (6H, m), 0.89-0.85 (3H, m).

reactant | dibenzyl oxalate | 19 mmol, 5.1 g | C(C(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C16H14O4
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | ether | 50 mL | CCOCC | C4H10O
product | 2-oxo-octanoic acid benzyl ester | 3.43 g, 73% yield | C(C1=CC=CC=C1)OC(C(CCCCCC)=O)=O | C15H20O3
